US05585111
Preparation of Isooctyl Acrylate: Acrylamide: Vinyl Acetate (75:5:20) Copolymer
A master batch was prepared by combining isooctyl acrylate (62 1.0 g), acrylamide (41.4 g), vinyl acetate (165.6 g), 2,2' azobis (2,4-dimethylpentanenitrile) (1,656 g, VAZO™ 52, DuPont), ethyl acetate (884.5 g) and methanol (87.48 g). A portion (400 g) of the resulting solution was placed in a one quart (0.95 liter) amber glass bottle. The bottle was purged for 2 minutes with nitrogen at a flow rate of 1 liter per minute. The bottle was sealed and placed in a rotating water bath at 45° C. for 24 hours to effect essentially complete polymerization. The copolymer was diluted with ethyl acetate: methanol (250 g, 90:10 volume-to-volume) to 26.05% solids and had a measured inherent viscosity of 1.27 deciliter/g in ethyl acetate at a concentration of 0.15 g/deciliter.

reactant | isooctyl acrylate | 1.0 g | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | acrylamide | 41.4 g | C(C=C)(=O)N | C3H5NO
reactant | vinyl acetate | 165.6 g | C(C)(=O)OC=C | C4H6O2
reactant | 2,2' azobis (2,4-dimethylpentanenitrile) | 1,656 g | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 884.5 g | C(C)(=O)OCC | C4H8O2
solvent | methanol | 250 g | CO | CH4O
solvent | methanol | 87.48 g | CO | CH4O
product | Isooctyl Acrylate Acrylamide Vinyl Acetate | C(C=C)(=O)OCCCCCC(C)C.C(C=C)(=O)N.C(C)(=O)OC=C | InChI=1S/C11H20O2.C4H6O2.C3H5NO/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-3-6-4(2)5;1-2-3(4)5/h4,10H,1,5-9H2,2-3H3;3H,1H2,2H3;2H,1H2,(H2,4,5)
